US05234946
560 mg of 3-(dimethoxymethyl)benzyltriphenylphosphonium bromide synthesized by brominating 3-hydroxymethylbenzaldehyde with phosphorus tribromide, and then acetalizing the product in anhydrous methanol in the presence of p-toluenesulfonic acid, followed by reacting it with triphenylphosphine] and 180 mg of 3-(1-pyrrolyl)benzaldehyde [synthesized by oxidizing 3-(1-pyrrolyl)benzyl alcohol with pyridinium chlorochromate in chloroform]were dissolved in 20 ml of methanol. 110 mg of sodium methoxide was added, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and water were added to the residue to extract it. The organic layer was worked up in a customary manner, and purified by medium-pressure liquid chromatography [Lobar column, size B, Lichroprep Si 60 (E. Merck Co.); eluting solvent: hexane/ethyl acetate=10/1] to give 135 mg (yield 42%) of an E-form of 3-[2-[3-(1-pyrrolyl)phenyl]ethenyl]benzaldehyde dimethyl acetal and 127 mg of its Z-form.

reactant | 3-(dimethoxymethyl)benzyltriphenylphosphonium bromide | 560 mg | [Br-].COC(C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1)OC
reactant | 3-hydroxymethylbenzaldehyde | OCC=1C=C(C=O)C=CC1 | C8H8O2
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(1-pyrrolyl)benzaldehyde | 180 mg | N1(C=CC=C1)C=1C=C(C=O)C=CC1 | C11H9NO
reactant | sodium methoxide | 110 mg | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 3-[2-[3-(1-pyrrolyl)phenyl]ethenyl]benzaldehyde dimethyl acetal | yield 42% | COC(C1=CC(=CC=C1)C=CC1=CC(=CC=C1)N1C=CC=C1)OC | C21H21NO2
